US05646173
An ozone stream (3 g ozone/hour) was conducted for 45 minutes while stirring through a solution, cooled to -70°, of 10.3 g of (RS)-2-(2-buten-1-yl)-6-chloro-1-indanone in 200 ml of anhydrous dichloro-methane and 100 ml of anhydrous methanol. Subsequently, the mixture was flushed with oxygen for 5 minutes and with argon for 10 minutes. After the addition of 5.13 ml of dimethyl sulfide, the mixture was stirred at room temperature for 16 hours. The reaction mixture was evaporated in a vacuum. The residue was treated with 60 ml of dichoromethane and, after the addition of 15 ml of water and 15 ml of trifluoroacetic acid, stirred at room temperature for 3 hours. The mixture was subsequently poured into 150 ml of water and neutralized by the spatula-wise addition of sodium hydrogen carbonate while stirring. An additional 100 ml of water were added, the phases were separated and the aqueous phase was extracted twice with 150 ml of dichloromethane each time. The combined organic phases were dried over magnesium sulfate, concentrated in a vacuum and the crude product obtained was recrystallized from ethyl acetate/hexane. 8.29 g (85%) of (RS)-2-(2-oxoethyl)-6-chloro-1-indanone were obtained as a white solid with m.p. 80°.

reactant | ozone | O=[O+][O-] | O3
reactant | ozone | 3 g | O=[O+][O-] | O3
reactant | (RS)-2-(2-buten-1-yl)-6-chloro-1-indanone | 10.3 g | C(C=CC)C1C(C2=CC(=CC=C2C1)Cl)=O | C13H13ClO
solvent | dichloro-methane | 200 ml | ClCCl | CH2Cl2
solvent | methanol | 100 ml | CO | CH4O
product | (RS)-2-(2-oxoethyl)-6-chloro-1-indanone | 8.29 g, 85% | O=CCC1C(C2=CC(=CC=C2C1)Cl)=O | C11H9ClO2
